US08835449B2
Ethyl 3-(2,6-dimethoxypyridin-3-yl)-3-oxopropanoate
To a solution of ethyl 3-(2,6-dimethoxypyridin-3-yl)-3-ethoxyacrylate (600 mg, 2.13 mmol) in CH2Cl2 (18 mL) was gradually added 3N aqueous HCl (3.5 mL). The reaction mixture was stirred at room temperature for 2 hours, then carefully added to a saturated sodium bicarbonate solution (30 mL). The layers were separated and the aqueous layer was extracted with CH2Cl2. The combined organic extracts were passed though a plug of cotton to dry and concentrated in vacuo. The resulting oil was purified by flash chromatography (0-60% EtOAc/heptanes) to provide the title compound (515 mg, 95% yield) as a white solid.

reactant | ethyl 3-(2,6-dimethoxypyridin-3-yl)-3-ethoxyacrylate | 2.13 mmol, 600 mg | COC1=NC(=CC=C1C(=CC(=O)OCC)OCC)OC | C14H19NO5
reactant | HCl | 3N, 3.5 mL | Cl | ClH
reactant | sodium bicarbonate | 30 mL | C([O-])(O)=O.[Na+]
solvent | CH2Cl2 | 18 mL | C(Cl)Cl | CH2Cl2
product | Ethyl 3-(2,6-dimethoxypyridin-3-yl)-3-oxopropanoate | 515 mg, 95% yield | COC1=NC(=CC=C1C(CC(=O)OCC)=O)OC | C12H15NO5
